US08022222B2
3-(5-bromo-2-(3-(piperidin-4-yl)-1,2,4-thiadiazol-5-ylamino)pyridin-4-yloxy)-4-chloro-N-(2-(dimethylamino)ethyl)benzamide dihydrochloride (0.12 g, 0.18 mmol) was dissolved in DMF (2 mL) and the solution was cooled to 0° C. DIEA (0.13 ml, 0.73 mmol) was added followed by acetyl chloride (0.017 mL, 0.24 mmol). The solution was warmed to RT. After 15 minutes, the solution was quenched with water, extracted with EtOAc, dried, and concentrated. HPLC purification gave 3-(2-(3-(1-acetylpiperidin-4-yl)-1,2,4-thiadiazol-5-ylamino)-5-bromopyridin-4-yloxy)-4-chloro-N-(2-(dimethylamino)ethyl)benzamide (0.0066 g, 6%) as a white solid. 1H NMR (400 MHz, CDCl3) 01.69-1.76 (m, 1H), 1.81-1.88 (m, 1H), 1.86-2.12 (m, 2H), 2.04 (s, 3H), 2.26 (s, 6H) 2.60 (t, 2H), 2.78-2.85 (m, 1H), 2.95-3.04 (m, 1H), 3.13-3.21 (m, 1H), 3.54-3.60 (m, 2H), 3.78-3.84 (m, 1H), 4.41-4.46 (m, 1H), 6.15 (s, 1H), 7.40 (s, 1H), 7.53 (d, 1H), 7.59-7.64 (m, 3H), 8.49 (s, 1H).

reactant | 3-(5-bromo-2-(3-(piperidin-4-yl)-1,2,4-thiadiazol-5-ylamino)pyridin-4-yloxy)-4-chloro-N-(2-(dimethylamino)ethyl)benzamide dihydrochloride | 0.18 mmol, 0.12 g | Cl.Cl.BrC=1C(=CC(=NC1)NC1=NC(=NS1)C1CCNCC1)OC=1C=C(C(=O)NCCN(C)C)C=CC1Cl
reactant | DIEA | 0.73 mmol, 0.13 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | acetyl chloride | 0.24 mmol, 0.017 mL | C(C)(=O)Cl | C2H3ClO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-(2-(3-(1-acetylpiperidin-4-yl)-1,2,4-thiadiazol-5-ylamino)-5-bromopyridin-4-yloxy)-4-chloro-N-(2-(dimethylamino)ethyl)benzamide | 0.0066 g, 6% | C(C)(=O)N1CCC(CC1)C1=NSC(=N1)NC1=NC=C(C(=C1)OC=1C=C(C(=O)NCCN(C)C)C=CC1Cl)Br | C25H29BrClN7O3S
